US06187918B1
A vial was charged with aminoalcohol A (0.0057 g, 0.024 mmol). To the vial was added 1.52 mL of a stock solution containing freshly distilled isobutyraldehyde (0.22 g), chlorobenzene internal standard (0.22 g), 1 M diethylzinc in hexane (6.0 mL), and toluene (3.0 mL). After 48 h acetic anhydride (0.200 mL) was added. After an additional 72 h a sample of the solution was analyzed by gas chromatography at 70° C. on a Cyclodex B stationary phase. The product 3-acetoxy-2-methylpentane was formed in 92% yield and 98% enantiomeric excess. The identity and yield of the product was established by comparison with an authentic sample prepared by treatment of racemic 2-methyl-3-pentanol with acetic anhydride.

reactant | aminoalcohol | NO | H3NO
reactant | isobutyraldehyde | 0.22 g | C(C(C)C)=O | C4H8O
reactant | diethylzinc | 1 M | C(C)[Zn]CC
reactant | acetic anhydride | 0.200 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | hexane | 6.0 mL | CCCCCC | C6H14
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 3-acetoxy-2-methylpentane | 92% yield | C(C)(=O)OC(C(C)C)CC | C8H16O2
